US05604218
To a stirring solution of 2-mercaptobenzyl alcohol (1.00 g, 7.10 mmol) in dichloromethane (20 mL) at 0° C. was added methyl acrylate (0.70 mL, 7.70 mmol) followed by triethylamine (50 μL, 0.35 mmol). The mixture was allowed to warm to room temperature and stir for 4 h, at which point the solvent was removed with a rotary evaporator. The residue was subjected to column chromatography on silica gel (0-10% ethyl acetate in dichloromethane), affording 1.40 g (86%) of methyl 3-(2-hydroxymethylphenylthio)propionate. 1H NMR (CDCl3) δ2.63 (t, 2, J=7), 3.18 (t, 2, J=7), 3.68 (s, 3), 4.79 (s, 2), 7.27 (m, 2), 7.43 (m, 2).

reactant | 2-mercaptobenzyl alcohol | 7.10 mmol, 1.00 g | SC1=C(CO)C=CC=C1 | C7H8OS
reactant | methyl acrylate | 7.70 mmol, 0.70 mL | C(C=C)(=O)OC | C4H6O2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
catalyst | triethylamine | 0.35 mmol, 50 μL | C(C)N(CC)CC | C6H15N
product | methyl 3-(2-hydroxymethylphenylthio)propionate | 1.40 g, 86% | OCC1=C(C=CC=C1)SCCC(=O)OC | C11H14O3S
